US08809267B2
To 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-ethyl-cyclopropanecarboxylic acid (200 mg, 0.3 mmol) in dichloromethane (4 mL) was added HCl (4N in dioxane) at room temperature. After 2 h, analysis of the reaction mixture by LC-MS showed complete conversion of starting material. At this point, the reaction was cooled to 0° C. and triethylamine (2 mL) was added dropwise, followed by carbonic acid 4-nitro-phenyl ester 1-trifluoromethyl-cyclobutyl ester (300 mg, 1 mmol). The reaction was allowed to warm to room temperature and stirred 14 h. The reaction mixture was then poured into a 1N solution of KHSO4(aq) and extracted with ethyl acetate. The combined organic extracts were washed with 1N KHSO4(aq), water, and brine, and subsequently dried over magnesium sulfate. Concentration, followed by purification by reverse phase HPLC and lyophilization gave 110 mg (50% yield) of 1-({4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-1-[3,3-dimethyl-2-(1-trifluoromethyl-cyclobutoxycarbonylamino)-butyryl]-pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid as a white powder. LCMS found 727.03 [M+H]+.

reactant | 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-ethyl-cyclopropanecarboxylic acid | 0.3 mmol, 200 mg | C(C)(C)(C)OC(=O)NC(C(=O)N1C(CC(C1)OC1=CC(=NC2=C(C=CC=C12)Cl)OCC)C(=O)NC1(C(C1)CC)C(=O)O)C(C)(C)C | C33H45ClN4O8
reactant | HCl | 4N | Cl | ClH
reactant | carbonic acid 4-nitro-phenyl ester 1-trifluoromethyl-cyclobutyl ester | 1 mmol, 300 mg | FC(C1(CCC1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C12H10F3NO5
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 1-({4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-1-[3,3-dimethyl-2-(1-trifluoromethyl-cyclobutoxycarbonylamino)-butyryl]-pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid | 110 mg, 50% yield | ClC=1C=CC=C2C(=CC(=NC12)OCC)OC1CC(N(C1)C(C(C(C)(C)C)NC(=O)OC1(CCC1)C(F)(F)F)=O)C(=O)NC1(C(C1)CC)C(=O)O | C34H42ClF3N4O8
